US08975261B2
4-{[(1S,2S)-2-(5-methoxypyridin-2-yl)cyclopropyl]methoxy}-2-methyl-5-[(pyridin-2-yloxy)methyl]pyrimidine (YY4)
NaH (4 mg, 0.10 mmol, 60% disp.) was added in one portion to a stirring solution of (4-{[(1S,2S)-2-(5-methoxypyridin-2-yl)cyclopropyl]methoxy}-2-methylpyrimidin-5-yl)methanol (15 mg, 0.05 mmol) and 2-chloropyridine (11.3 mg, 0.1 mmol) in THF (0.33 mL) in a small pressure vessel. The vessel was sealed and then heated to 100° C. for 2 h. The reaction mixture was cooled to room temperature and then quenched by addition of 2 drops of saturated aqueous NaHCO3. The reaction mixture was diluted with EtOAc (5 mL) and washed sequentially with saturated aqueous NaHCO3 (5 mL) and brine (5 mL). The organics were dried over MgSO4, filtered, and concentrated in vacuo. The resulting residue was purified by reverse phase chromatography (Waters Sunfire Prep C18 OBD, 5-95% acetonitrile in water with 0.1% TFA modifier) to afford the title compound as a white solid. 1H NMR (500 MHz, DMSO): δ 8.44 (s, 1 H), 8.13-8.16 (m, 2H), 7.57 (td, J=7.2, 2.0 Hz, 1 H), 7.07 (dd, J=8.5, 2.9 Hz, 1 H), 7.02 (d, J=8.6 Hz, 1 H), 6.88 (dd, J=6.4, 5.4 Hz, 1 H), 6.77 (d, J=8.3 Hz, 1 H), 5.34 (s, 2H), 4.10-4.49 (m, 2 H), 3.82 (s, 3 H), 2.52 (s, 3 H), 2.06 (dt, J=8.3, 4.9 Hz, 1 H), 1.80-1.85 (m, 1 H), 1.26 (dt, J=8.6, 5.1 Hz, 1 H), 1.03 (dt, J=8.6, 4.9 Hz, 1 H); LRMS m/z (M+H) 379.4 found, 379.2 required.

reactant | NaH | 0.10 mmol, 4 mg | [H-].[Na+]
reactant | (4-{[(1S,2S)-2-(5-methoxypyridin-2-yl)cyclopropyl]methoxy}-2-methylpyrimidin-5-yl)methanol | 0.05 mmol, 15 mg | COC=1C=CC(=NC1)[C@@H]1[C@H](C1)COC1=NC(=NC=C1CO)C | C16H19N3O3
reactant | 2-chloropyridine | 0.1 mmol, 11.3 mg | ClC1=NC=CC=C1 | C5H4ClN
solvent | THF | 0.33 mL | C1CCOC1 | C4H8O
product | 4-{[(1S,2S)-2-(5-methoxypyridin-2-yl)cyclopropyl]methoxy}-2-methyl-5-[(pyridin-2-yloxy)methyl]pyrimidine | COC=1C=CC(=NC1)[C@@H]1[C@H](C1)COC1=NC(=NC=C1COC1=NC=CC=C1)C | C21H22N4O3
